US06440995B1
(RS)-3-[2-(3,4-Dichloro-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 234-236° C., and MS: m/e=362 (M+), was prepared from 4-chloro-2-(3,4-dichloro-phenyl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(3,4-dichloro-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)Cl)Cl | C15H8Cl3N
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(3,4-Dichloro-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C18H16Cl2N2O2.ClH/c19-14-6-5-11(7-15(14)20)17-8-18(21-9-12(24)10-23)13-3-1-2-4-16(13)22-17;/h1-8,12,23-24H,9-10H2,(H,21,22);1H
